US07531532B2
tert-Butyl (3-azetidin-1-yl-3-oxopropyl)carbamate
After adding azetidine hydrochloride (2.96 g) to a solution of triethylamine (4.42 ml) in N,N-dimethylformamide, the mixture was stirred for 10 minutes at room temperature. Boc-beta-ALA-OH (5.00 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (7.59 g) and 1-hydroxybenzotriazole (5.35 g) were added thereto, and the mixture was stirred at room temperature for 3 days. The reaction mixture was partitioned between ethyl acetate and brine. The organic layer was washed with brine and dried over anhydrous sodium sulfate. It was then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent; ethyl acetate, then ethyl acetate:methanol=10:1). Fractions containing the target compound were concentrated under reduced pressure to provide the title compound (5.99 g, 99.4%) as a pale yellow oil.

reactant | azetidine hydrochloride | 2.96 g | Cl.N1CCC1
reactant | Boc-beta-ALA-OH | 5.00 g | CC(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 7.59 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 5.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | 4.42 ml | C(C)N(CC)CC | C6H15N
product | tert-Butyl (3-azetidin-1-yl-3-oxopropyl)carbamate | 5.99 g, 99.4% | N1(CCC1)C(CCNC(OC(C)(C)C)=O)=O | C11H20N2O3
